US09388189B2
c) N-(6-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)-4-methoxy benzenesulfonamide
6-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-amine (880 mg, 2.52 mmol) was treated with 4-methoxybenzene-1-sulfonyl chloride (572 mg, 2.77 mmol) according to the method described in Preparation 15b to give 1.48 mg (97% yield) of the title compound. Purity 85%.

reactant | 6-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-amine | 2.52 mmol, 880 mg | ClC=1C=C(C=2C=CN(C2C1)COCC[Si](C)(C)C)N | C14H21ClN2OSi
reactant | 4-methoxybenzene-1-sulfonyl chloride | 2.77 mmol, 572 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(6-Chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-4-yl)-4-methoxy benzenesulfonamide | 1.48 mg, 97% yield | ClC1=CC(=C2C=CN(C2=C1)COCC[Si](C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC | C21H27ClN2O4SSi
